US04544667
Step A: Preparation of 6-allyloxy-2-sulfamoylbenzo[b]furan
The title compound is prepared by alkylation of 6-hydroxy-2-sulfamoylbenzo[b]furan with allyl bromide.

reactant | 6-hydroxy-2-sulfamoylbenzo[b]furan | OC=1C=CC2=C(OC(=C2)S(N)(=O)=O)C1 | C8H7NO4S
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | 6-allyloxy-2-sulfamoylbenzo[b]furan | C(C=C)OC=1C=CC2=C(OC(=C2)S(N)(=O)=O)C1 | C11H11NO4S
